US06326503B1
Preparation of 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-(4-hydroxy-4-methyl-2-pentynylthio)pregna-5,7,16-triene
Under the same conditions as in Example 3, 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-phenoxycarbonylthiopregna-5,7,16-triene (59.4 mg, 0.102 mmol), 5-bromo-2-methyl-3-pentyn-2-ol (90.5 mg, 0.511 mmol), tetrahydrofuran (1 ml) and 1M KOH solution in methanol (1 ml) were reacted and worked up, and then the residue was purified by preparative thin layer chromatography (0.5 mm×2, dichloromethane:ethyl acetate=5:1, developed twice) to give the title compound as a colorless oil (41.6 mg, 73%).

reactant | 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-phenoxycarbonylthiopregna-5,7,16-triene | 0.102 mmol, 59.4 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SC(=O)OC5=CC=CC=C5)[C@]4(CC[C@@H]3[C@@]12C)C)O | C34H48O4SSi
reactant | 5-bromo-2-methyl-3-pentyn-2-ol | 0.511 mmol, 90.5 mg | BrCC#CC(C)(O)C | C6H9BrO
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | KOH | 1M | [OH-].[K+]
solvent | methanol | 1 ml | CO | CH4O
product | 1α-(tert-butyldimethylsilyloxy)-3β-hydroxy-20(S)-(4-hydroxy-4-methyl-2-pentynylthio)pregna-5,7,16-triene | 41.6 mg, 73% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)SCC#CC(C)(C)O)[C@]4(CC[C@@H]3[C@@]12C)C)O | C33H52O3SSi
